US05405870
44(a) 3-(2-Hydroxyethyl)-7-oxo-cis-bicyclo[3,3,0]oct-2-ene
3.00 g of 3-(2-hydroxyethyl)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]oct-2-ene (prepared as described in Preparation 43) were dissolved in a mixture of 30 ml of acetone and 12 ml of water, and 0.5 ml of concentrated hydrochloric acid was added to the solution. The mixture was stirred for 1 hour at room temperature, after which it was diluted with a saturated aqueous solution of sodium chloride, and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure, and the resulting residue (2.61 g) was purified by silica gel column chromatography. 1.97 g of the title compound was obtained in the form of an oil from the fractions eluted with hexane containing from 35 to 45% by volume of ethyl acetate.

reactant | 3-(2-hydroxyethyl)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]oct-2-ene | 3.00 g | OCCC1=C[C@@H]2CC3(C[C@@H]2C1)OCCO3 | C12H18O3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 12 ml | O | H2O
solvent | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | sodium chloride | [Cl-].[Na+]
product | 3-(2-Hydroxyethyl)-7-oxo-cis-bicyclo[3,3,0]oct-2-ene | 1.97 g | OCCC1=C[C@@H]2CC(C[C@@H]2C1)=O | C10H14O2
